### PR TITLE
[Merged by Bors] - feat(Torsion/PrimaryComponent): restricted surjective map on primaryComponent is surjective

### PR DESCRIPTION
**Pull request by xgenereux**
Given a surjective linear map between modules ` φ : M₁ →ₗ[A] M₂`, its restriction to primary components
```
primaryComponent.map P.asIdeal φ : ↥(primaryComponent M₁ P.asIdeal) →ₗ[A] ↥(primaryComponent M₂ P.asIdeal)
```
is also surjective when `P` is a non zero prime ideal in a Dedekind domain `A` and `M₁` and `M₂` are torsion.

Co-authored-by: María Inés de Frutos Fernández <[mariaines.dff@gmail.com](mailto:mariaines.dff@gmail.com)>

---

- [ ] depends on: #37466

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Torsion/PrimaryComponent.lean [hunk 1]
```diff
@@ -186,6 +186,48 @@ theorem iSupIndep_primaryComponent :
   apply hSupIndep _ _ ?_ hsum
   exact fun P hP ↦ torsionBySet_le_torsionBySet_pow _ _ (Finset.le_sup hP) _ (hmem P hP)
 
+open Classical in
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/Torsion/PrimaryComponent.lean]: This risks inserting `Classical` terms into the statement. Use the `classical` tactic in the proof instead.
```suggestion
```

File: Mathlib/Algebra/Module/Torsion/PrimaryComponent.lean [hunk 2]
```diff
@@ -186,6 +186,48 @@ theorem iSupIndep_primaryComponent :
...
+theorem primaryComponent.map_surjective (M₁ M₂ : Type*)
+    [AddCommGroup M₁] [AddCommGroup M₂] [Module A M₁] [Module A M₂] (hM₁ : IsTorsion A M₁)
+    (P : HeightOneSpectrum A) (φ : M₁ →ₗ[A] M₂) (hf : Surjective φ) :
+    Surjective (primaryComponent.map P.asIdeal φ) := by
+  rintro ⟨y, hy⟩
+  obtain ⟨b, rfl⟩ := hf y
+  simp only [primaryComponent_mem, mem_torsionBySet_iff, SetLike.coe_sort_coe, Subtype.forall] at hy
+  obtain ⟨n, hn⟩ := hy
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/Torsion/PrimaryComponent.lean]: The following is easier to read and maintain as it describes the end result rather than the tools employed:
```suggestion
  obtain ⟨n, hn⟩ : ∃ n, ∀ a ∈ P.asIdeal ^ n, a • φ b = 0 := by simpa [primaryComponent_mem] using hy
```

File: Mathlib/Algebra/Module/Torsion/PrimaryComponent.lean [hunk 3]
```diff
@@ -186,6 +186,48 @@ theorem iSupIndep_primaryComponent :
...
+  have h₁ := by simpa [eq_top_iff'] using iSup_primaryComponent_eq_top hM₁
+  specialize h₁ b
+  rw [mem_iSup_iff_exists_dfinsupp] at h₁
+  obtain ⟨f, hf⟩ := h₁
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/Torsion/PrimaryComponent.lean]: Unfortunately this is very brittle code: there is nothing constraining the type of this `have` and it depends on the `simp` set. Also, we should make it easier to read this proof, so we can write something like:
```suggestion
  obtain ⟨f, hf⟩ : ∃ f : Π₀ i : HeightOneSpectrum A, primaryComponent M₁ i.asIdeal,
      (DFinsupp.lsum ℕ
        fun i : HeightOneSpectrum A ↦ (primaryComponent M₁ i.asIdeal).subtype) f = b := by
    rw [← mem_iSup_iff_exists_dfinsupp]
    have := iSup_primaryComponent_eq_top hM₁
    simp only [eq_top_iff'] at this
    exact this b
```

**Review by ocfnash — COMMENTED** [review]
Thanks.

I've left a couple of basic remarks. Please think carefully about these: it takes up a lot of reviewer time if we have to go through every proof this carefully so we rely on authors to write robust proof scripts.

File: Mathlib/Algebra/Module/Torsion/PrimaryComponent.lean (hunk 3 above)
Comment (xgenereux) [reply Mathlib/Algebra/Module/Torsion/PrimaryComponent.lean]: Maybe I need to unlearn golfing.
I have a question: In this obtain you suggest, would the proof
```
aesop (add norm [eq_top_iff', mem_iSup_iff_exists_dfinsupp],
      safe forward iSup_primaryComponent_eq_top)
```
be bad in your opinion? Do you think it makes the proof more obscure?

**Comment by xgenereux** [comment]
I'm not done, I'll get back to this!

**Comment by xgenereux** [comment]
Ok, I think I am satisfied with this, let me know what you think!
Main changes:
- Stay with `φ b - φ ↑(f P)` as long as possible instead of `∑ Q ∈ f.support \ {P}, φ ↑(f Q)`.
- Use more `Submodule` lemmas.

I have one last question:
This version is what I believe is more Mathlib aligned. However, if you look at the commit before [(streamline proof)](https://github.com/leanprover-community/mathlib4/pull/37492/commits/e1da42d94ab5dd20d5fd9f22621415d9eb9d4e11), I used `rw [(?diff : φ b - φ ↑(f P) = ∑ Q ∈ f.support \ {P}, φ ↑(f Q))]`, this adds the proof obligation to the queue instead of declaring the equality with a `have`. I personally believe this is better, because I am not a fan of introducing a `have` for a single rewrite use. Would this have been fine?
Thanks for your help with this!

File: Mathlib/Algebra/Module/Torsion/PrimaryComponent.lean [hunk 4]
```diff
@@ -186,6 +186,29 @@ theorem iSupIndep_primaryComponent :
...
+    Surjective (primaryComponent.map P.asIdeal φ) := by
+  classical
+  rintro ⟨y, hy⟩
+  obtain ⟨b, rfl⟩ : ∃ a, φ a = y := hf y
+  obtain ⟨f, hf⟩ : ∃ f : Π₀ i : HeightOneSpectrum A, primaryComponent M₁ i.asIdeal,
+      (DFinsupp.lsum ℕ fun i : HeightOneSpectrum A ↦
+      (primaryComponent M₁ i.asIdeal).subtype) f = b := by
+    simp only [← mem_iSup_iff_exists_dfinsupp, iSup_primaryComponent_eq_top hM₁, mem_top]
+  refine ⟨f P, Subtype.ext ?_⟩
+  change φ (f P) = φ b
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/Torsion/PrimaryComponent.lean]: Often when `change` is necessary, it means there is some missing API and indeed this is the case here. If we add `@[simps!]` to `primaryComponent.map` up on [line 75](https://github.com/leanprover-community/mathlib4/blob/8e5005292176a5a24957a187ae525b81c4827ad7/Mathlib/Algebra/Module/Torsion/PrimaryComponent.lean#L75) then this line can become:
and as a result is no longer sensitive to the definition of `primaryComponent.map`.
```suggestion
  simp only [map_apply_coe]
```

**Review by ocfnash — APPROVED** [review]
Thanks for working hard to make this proof much easier to maintain 🎉 

Just one last suggestion.

bors d+

**Comment by ocfnash** [comment]
> [Previously] I used `rw [(?diff : φ b - φ ↑(f P) = ∑ Q ∈ f.support \ {P}, φ ↑(f Q))]`, this adds the proof obligation to the queue instead of declaring the equality with a `have`. I personally believe this is better, because I am not a fan of introducing a `have` for a single rewrite use. Would this have been fine? 

This is a bit subjective but I would have asked you to change it :-)
